US07605176B2
3-biphenyl-4-yl-N-[3-chloro-4-(2-diethylaminoethoxy)phenyl]-3-oxopropionamide
0.16 g (0.36 mmol) of 3-biphenyl-4-ylpropynoic acid-[3-chloro-4-(2-diethylaminoethoxy)phenyl]amide (educt XII.1) is dissolved in 10 mL of aqueous ethanol and 0.10 mL (1.0 mmol) of piperidine is added. The mixture is stirred for 8 hours at reflux temperature. After cooling, the solvent is eliminated, and the residue is suspended in ether and filtered off. The residue is dried in vacuo at 50° C. Yield: 75 mg (45% of theory); Rf value: 0.40 (silica gel, methylene chloride/methanol/ammonia=9:1:0.01); m.p. 148° C.-151° C.; C27H29ClN2O3; EII mass spectrum: m/z=465/467 [M+H]+.

reactant | 3-biphenyl-4-ylpropynoic acid-[3-chloro-4-(2-diethylaminoethoxy)phenyl]amide | 0.36 mmol, 0.16 g | ClC=1C=C(C=CC1OCCN(CC)CC)NC(C#CC1=CC=C(C=C1)C1=CC=CC=C1)=O | C27H27ClN2O2
reactant | piperidine | 1.0 mmol, 0.10 mL | N1CCCCC1 | C5H11N
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 3-biphenyl-4-yl-N-[3-chloro-4-(2-diethylaminoethoxy)phenyl]-3-oxopropionamide | C1(=CC=C(C=C1)C(CC(=O)NC1=CC(=C(C=C1)OCCN(CC)CC)Cl)=O)C1=CC=CC=C1 | C27H29ClN2O3
